US08486970B2
To a mixed liquid of 420 mg of benzyl ({6-[2-({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)ethyl]pyridin-2-yl}oxy)acetate, 5 ml of DMF, and 5 ml of ethanol was added 84 mg of 5% palladium/carbon, followed by stirring at room temperature for 15 minutes under a hydrogen atmosphere. After separating the palladium/carbon by filtration, the solvent was evaporated, and the residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain 78 mg of ({6-[2-({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)ethyl]pyridin-2-yl}oxy)acetic acid as a white solid.

reactant | benzyl ({6-[2-({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)ethyl]pyridin-2-yl}oxy)acetate | 420 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NCCC1=CC=CC(=N1)OCC(=O)OCC1=CC=CC=C1)=O)C1C(CCCC1)NS(=O)(=O)C | C39H40Cl2N4O7S
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | palladium/carbon | 84 mg | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | ({6-[2-({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)ethyl]pyridin-2-yl}oxy)acetic acid | 78 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NCCC1=CC=CC(=N1)OCC(=O)O)=O)C1C(CCCC1)NS(=O)(=O)C | C32H34Cl2N4O7S
